US08133995B2
Step 2: Preparation of 6-methyl-7-(1,4-oxazepan-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
A solution of formaldehyde (0.61 mL, 8.10 mmol, 37% in H2O) and homomorpholine hydrochloride (1.11 g, 8.10 mmol) in AcOH (5 mL) was added to a stirring solution of 6-methylpyrrolo[2,1-f][1,2,4]triazin-4-amine (1.00 g, 6.75 mmol) in AcOH (5 mL) at 60° C. The reaction was allowed to stir until all starting material had been consumed as shown by HPLC (1 hr). The reaction mixture was worked up by diluting with EtOAc and washing 3× with saturated sodium carbonate solution. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The crude product was triturated with Et2O to obtain 1.37 g (78%) of a light brown powder. 1H-NMR (DMSO-d6) δ 7.76 (s, 1H), 7.47 (br s, 2H), 6.65 (s, 1H), 3.85 (s, 2H), 3.62 (t, J=5.7 Hz, 2H), 3.55-3.51 (m, 2H), 2.61-2.55 (m, 4H), 2.21 (s, 3H), 1.77-1.74 (m, 2H); MS [M+H]+=262.0; LCMS RT=1.02.

reactant | formaldehyde | 8.10 mmol, 0.61 mL | C=O | CH2O
reactant | homomorpholine hydrochloride | 8.10 mmol, 1.11 g | C1CNCCOC1.Cl
reactant | 6-methylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 6.75 mmol, 1.00 g | CC=1C=C2C(=NC=NN2C1)N | C7H8N4
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
product | 6-methyl-7-(1,4-oxazepan-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 1.37 g, 78% | CC=1C=C2C(=NC=NN2C1CN1CCOCCC1)N | C13H19N5O
